US08633175B2
A solution of SO2Cl2 (12.6 mL, 0.155 mol) and 2-chloroethylamine hydrochloride (3.0 g, 25.9 mmol) in CH3CN (100 mL) was stirred at 75° C. for 16 hr. The solution was concentrated and the residue dried in vacuo. The residue was then extracted with two 15 mL portions of Et2O and the combined washes then added dropwise to a solution of 3-bromoaniline (1.70 mL, 15.5 mmol) and TEA (7.20 mL, 51.7 mmol) in Et2O (15 mL) at −78° C. After stirring at room temperature for 16 hr, the mixture was diluted with EtOAc then washed with H2O and brine, dried over Na2SO4 and concentrated. To the residue was added DMSO (100 mL) and K2CO3 (3.60 g, 26.0 mmol). After stirring at room temperature for 2 hr the mixture was poured into H2O (500 mL), extracted twice with EtOAc and the combined organics washed with H2O and brine then concentrated. The residue was recrystallized from EtOAc/hexanes to give 2-(3-bromophenyl)-1,2,5-thiadiazolidine 1,1-dioxide as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.48-3.49 (m, 2H), 3.82-3.85 (m, 2H), 7.15 (d, J=8.0 Hz, 1H), 7.23 (d, J=8.0 Hz, 1H), 7.29-7.33 (m, 2H), 7.85 (br s, 1H).

reactant | 2-chloroethylamine hydrochloride | 25.9 mmol, 3.0 g | Cl.ClCCN
reactant | 3-bromoaniline | 15.5 mmol, 1.70 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | DMSO | 100 mL | CS(=O)C | C2H6OS
reactant | K2CO3 | 26.0 mmol, 3.60 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | Et2O | 15 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 500 mL | O | H2O
product | 2-(3-bromophenyl)-1,2,5-thiadiazolidine 1,1-dioxide | BrC=1C=C(C=CC1)N1S(NCC1)(=O)=O | C8H9BrN2O2S
